US08030438B2
(13) Synthesis of 3,4′,4″,4″′-tetrakis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′]-quaterthiophene
At room temperature, 0.0564 g (0.1 mmol) of 4,3′-bis(diethoxyphosphoryl)-5′-iodo-[2,2′]-bithiophene and 0.0092 g (0.008 mmols) of commercially available tetrakistriphenylphosphine palladium were dissolved in 2 ml of toluene, to which 0.0709 g (0.1 mmol) of 5-(tributylstannyl)-4,3′-bis(diethoxyphosphoryl)-[2,2′]-bithiophene and 0.0018 g (0.02 mmols) of commercially available copper(I) cyanide were added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 2.5 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution added, followed by stirring for 1 hour. The resulting solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a PTLC plate (developed with ethyl acetate and ethyl acetate:hexane=15:1) to obtain the specified substance in the form of an orange oil at a yield of 0.0717 g (yield: 82%).

reactant | 4,3′-bis(diethoxyphosphoryl)-5′-iodo-[2,2′]-bithiophene | 0.1 mmol, 0.0564 g | C(C)OP(=O)(OCC)C=1C=C(SC1)C=1SC(=CC1P(=O)(OCC)OCC)I | C16H23IO6P2S2
reactant | 5-(tributylstannyl)-4,3′-bis(diethoxyphosphoryl)-[2,2′]-bithiophene | 0.1 mmol, 0.0709 g | C(CCC)[Sn](C1=C(C=C(S1)C=1SC=CC1P(=O)(OCC)OCC)P(=O)(OCC)OCC)(CCCC)CCCC
reactant | copper(I) cyanide | [Cu]C#N
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4′,4″,4″′-tetrakis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′]-quaterthiophene | yield: 82% | C(C)OP(=O)(OCC)C1=C(SC=C1)C=1SC(=C(C1)P(=O)(OCC)OCC)C=1SC(=C(C1)P(=O)(OCC)OCC)C=1SC=C(C1)P(=O)(OCC)OCC | C32H46O12P4S4
